US08008283B2
Azosemide can be reacted with formaldehyde in methylene chloride, methylene chloride-DMF mixtures or DMF to yield 2-chloro-5-[1-(hydroxymethyl)-1H-tetrazol-5-yl]-4-[(2-thienylmethyl)amino]benzenesulfonamide.

reactant | Azosemide | C=1C=C(SC1)CNC2=CC(=C(C=C2C3=NNN=N3)S(=O)(=O)N)Cl | C12H11ClN6O2S2
reactant | formaldehyde | C=O | CH2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride DMF | C(Cl)Cl.CN(C)C=O
product | 2-chloro-5-[1-(hydroxymethyl)-1H-tetrazol-5-yl]-4-[(2-thienylmethyl)amino]benzenesulfonamide | ClC1=C(C=C(C(=C1)NCC=1SC=CC1)C1=NN=NN1CO)S(=O)(=O)N | C13H13ClN6O3S2
